US08609727B2
Methyl 4-{(3E)4-{2-[(4-tert-butylbenzyl)oxy]phenyl}-2-[2-(4-cyanophenyl)ethyl]but-3-en 1-yl}benzoate
2.20 g (9.71 mmol) of 4-(tert-butyl)benzyl bromide and 2.02 g (14.59 mmol) of anhydrous potassium carbonate are added to a solution of 2 g (3.6 mmol) of methyl E4-[2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-enyl]benzoate in 8 ml of dry acetonitrile, and the mixture is heated under reflux for 12 hours. The mixture is then filtered and the filtrate is evaporated to dryness. The residue is purified by chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1). 1.9 g (3.30 mmol, 97% purity, 92% yield) of an oil are isolated.

reactant | 4-(tert-butyl)benzyl bromide | 9.71 mmol, 2.20 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | potassium carbonate | 14.59 mmol, 2.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl E4-[2-[2-(4-cyanophenyl)ethyl]-4-(2-hydroxyphenyl)but-3-enyl]benzoate | 3.6 mmol, 2 g | C(#N)C1=CC=C(C=C1)CCC(CC1=CC=C(C(=O)OC)C=C1)\C=C\C1=C(C=CC=C1)O | C27H25NO3
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | Methyl 4-{(3E)4-{2-[(4-tert-butylbenzyl)oxy]phenyl}-2-[2-(4-cyanophenyl)ethyl]but-3-en 1-yl}benzoate | 92% yield | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)/C=C/C(CC2=CC=C(C(=O)OC)C=C2)CCC2=CC=C(C=C2)C#N)C=C1 | C38H39NO3
